US03962105
A solution of bicyclo[2. 2. 1]hept-5-ene-2,3-dicarboxylic anhydride in toluene is prepared by reacting 1960 grams (20 moles) of maleic anhydride dissolved in 3000 grams of toluene with 1320 grams (20 moles) of cyclopentadiene at a reaction temperature in the range of from about 70° to 75°C.

reactant | maleic anhydride | 20 moles, 1960 grams | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | cyclopentadiene | 20 moles, 1320 grams | C1=CC=CC1 | C5H6
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 3000 grams | C1(=CC=CC=C1)C | C7H8
product | bicyclo[2. 2. 1]hept-5-ene-2,3-dicarboxylic anhydride | C12C3C(C(C=C1)C2)C(=O)OC3=O | C9H8O3
